data/oMe_Silver.jsonl
{"reaction_id": "NR-073_1-c1ccccc1_2-CC","name": "Fritsch-Buttenberg-Wiechell Rearrangement","level": "medium","reactants_smiles": ["C(=C(Br))(c1ccccc1)(CC)"],"products_smiles": ["C(c1ccccc1)#C(CC)"],"conditions": "Base (e.g., LDA)","mechnism_text_description": "The Fritsch-Buttenberg-Wiechell rearrangement begins with the deprotonation of the vinylic hydrogen by a strong base, forming a vinyl anion. This is followed by an α-elimination of the halide, which generates a vinyl carbene intermediate. The final step involves a 1,2-migration of one of the R groups, leading to the formation of the alkyne product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[C-]Br)(c1ccccc1)(CC)","step_weight": 0,"rationale": "LDA, a strong non-nucleophilic base, abstracts the acidic vinylic proton due to the adjacent electron-withdrawing bromine, stabilizing the resulting vinyl anion via inductive effects."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(c1ccccc1)(CC)","step_weight": 0,"rationale": "The negatively charged carbon promotes α-elimination of bromide, a good leaving group, forming a high-energy vinyl carbene stabilized transiently by adjacent substituents."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1ccccc1)#C(CC)","step_weight": 0,"rationale": "The carbene undergoes a 1,2-shift of c1ccccc1 or CC to relieve electron deficiency, forming the more stable, conjugated alkyne via rehybridization to sp."}],"description": "A strong base deprotonates the vinylic position to generate a vinyl anion, which undergoes α-elimination of bromide to form a reactive vinyl carbene. A 1,2-shift of an R group then produces the thermodynamically stable alkyne product."}
{"reaction_id": "NR-229_1-C1CCCCC1_2-c1ccccc1_3-C_4-CC_5-c1ccc(Br)cc1","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(C1CCCCC1)(c1ccccc1)","C(C)=C(CC)(c1ccc(Br)cc1)","O"],"products_smiles": ["C([OH])(CC)(c1ccc(Br)cc1)C(C)(C(O)(C1CCCCC1)(c1ccccc1))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C1CCCCC1)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](CC)(c1ccc(Br)cc1)C(C)(C(O)(C1CCCCC1)(c1ccccc1))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(CC)(c1ccc(Br)cc1)C(C)(C(O)(C1CCCCC1)(c1ccccc1))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(CC)(c1ccc(Br)cc1)C(C)(C(O)(C1CCCCC1)(c1ccccc1))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
